US06951879B2
In analogy to example 12.1, 3-(4-chloro-phenyl)-benzo[d]isothiazol-6-ol and trifluoromethane sulfonic anhydride were converted to yield Trifluoro-methanesulfonic acid 3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl ester as orange oil, MS: 393 (MH+, 1Cl).

reactant | 3-(4-chloro-phenyl)-benzo[d]isothiazol-6-ol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)O | C13H8ClNOS
reactant | trifluoromethane sulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F | C14H7ClF3NO3S2
